US07795282B2
Step C: Preparation of tert-butyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate:
To a solution of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide (0.300 g, 0.717 mmol) in 10 mL of ethanol was added tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate (0.239 g, 0.860 mmol) followed by DIEA (0.25 mL, 1.43 mmol). The mixture was allowed to stir overnight at reflux then treated with tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate (100 mg) and stirred at reflux for a further 3 hrs. The cooled mixture was partitioned between saturated NaHCO3 solution (30 mL) and EtOAc (30 mL) and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic phases were washed with brine (20 mL) dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (5-10% ethyl acetate/hexanes) to afford the desired product as a bright yellow foam (0.313 g, 73%).

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide | 0.717 mmol, 0.300 g | N(=[N+]=[N-])CCCC1(SC(=NN1C(N)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H16F2N6S2
reactant | tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate | 0.860 mmol, 0.239 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
reactant | DIEA | 1.43 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate | 100 mg | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate | 0.313 g, 73% | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C28H29F2N7O2S2
